US05373038
600 g of water and 432 g (3 mol) of thiobarbituric acid (Merck) were heated to 90° C. and 270 g (1.5 mol) of guanidine carbonate (Chemie Linz) were added while stirring. After stirring for a further 2 hours at the boiling point while refluxing, the guanidine thiobarbiturate formed was suction filtered, washed twice with cold water, and dried overnight at 105° C. in a drying cabinet. Guanidine thiobarbiturate was obtained in a yield of 80%. The melting point was 320°-325° C., and the decomposition temperature was above 450° C. The compound was identified by means of its IR spectrum.

reactant | thiobarbituric acid | 3 mol, 432 g | N1C(=S)NC(=O)CC1=O | C4H4N2O2S
reactant | guanidine carbonate | 1.5 mol, 270 g | C(O)(O)=O.NC(=N)N
solvent | water | 600 g | O | H2O
product | guanidine thiobarbiturate | N1C(=S)NC(=O)CC1=O.NC(=N)N | InChI=1S/C4H4N2O2S.CH5N3/c7-2-1-3(8)6-4(9)5-2;2-1(3)4/h1H2,(H2,5,6,7,8,9);(H5,2,3,4)
